Class A Amplifier Circuit.

*******************************************************
* AC Analysis of Class A Amplifier                    *                                                     
* Assignment : Course Project                         *
* Deadline:16/Apr/2021 E.O.D.                         *
* Author: Ashwani Kumar Sharma                        *
* Roll No.: 204102402                                 *
*******************************************************

.include 45nm_LP.pm

*Circuit Netlist and Supplies.
Vdd sup 0 dc 1.1V
*Vin_p in1 0 sin(0 0 100k 0 0)
*Vin_m in2 0 sin(0 0 100k 0 0)
Vin_p in1 0 dc 0.1 ac 0.01m
Vin_m in2 0 dc 0.1 ac -0.01m
Ibias1 sup s12 20u
Ibias2 d1 0 20u
Ibias3 d2 0 20u
M1 d1 in1 s12 s12 pmos W=5.4u L=270n
M2 d2 in2 s12 s12 pmos W=5.4u L=270n
M7 d7 g78 sup sup pmos W=5.4u L=270n
M8 d8 g78 sup sup pmos W=5.4u L=270n
M7c g78 g78c d7 d7 pmos W=5.4u L=270n
M8c out g78c d8 d8 pmos W=5.4u L=270n
M9c g78 g910c d1 d1 nmos W=2.7u L=270n
M10c out g910c d2 d2 nmos W=2.7u L=270n
CL out 0 70pF

*Biasing Circuit
Iref1 sup g910c 10u
Mbn1 g910c g910c d1 d1 nmos W=2.7u L=270n

Mbp2 g78c g78c d7 d7 pmos W=5.4u L=270n
Iref2 g78c 0 10u

*Control block starts here.
.control
  run
  ac dec 100 0.01 1G 
  plot db(V(out)/(V(in1)-V(in2)))
  plot {57.29*Vp(out)}
  let p = 180+{57.29*Vp(out)}
  let gain = db(V(out)/(V(in1)-V(in2)))
  let phase = {57.29*Vp(out)}
  meas ac Dc_Gain find gain at = 1
  meas ac Gain_Crossover_Frequency find frequency when gain = 0
  meas ac Phase_Margin find p when gain = 0
.endc
*Control block ends here.
.end