Class AB Amplifier Circuit.
.include pmos.cir

*Circuit Netlist and Supplies.
Vdd sup 0 dc 1.1V
*Vin_p in1 0 
*Vin_m in2 0 sin(0 0 100k 0 0)
Vin_n in1 0 dc 0.65V 
M1 d1 in1 s1 s1 pmos W=5.4u L=270n
M2 d2 in1 s2 s2 pmos W=5.4u L=270n
M7 d7 g78 sup sup pmos W=5.4u L=270n
M8 d8 g78 sup sup pmos W=5.4u L=270n
M7c g78 g78c d7 d7 pmos W=5.4u L=270n
M8c out g78c d8 d8 pmos W=5.4u L=270n
M9c g78 g910c d1 d1 nmos W=2.7u L=270n
M10c out g910c d2 d2 nmos W=2.7u L=270n
M9 d1 g9 0 0 nmos W=2.7u L=270n
M10 d2 g10 0 0 nmos W=2.7u L=270n
Cbat1 g5 g10 0.7pf
Cbat2 g6 g9 0.7pf
Cb1 g10 0 0.175pf
Cb2 g9 0 0.175pf
CL out 0 70pF

*Adaptive Biasing Circuit for folding MOS
Ibias1 sup d11c 20u
M11c g11 g11c s11 s11 nmos W=2.7u L=270n
M11 s11 g11 0 0 nmos W=2.7u L=270n
Mr1 g10 g11 g11 g11 pmos W=200n L=90n
Mr2 g9 g11 g11 g11 pmos W=200n L=90n

*Adaptive Biasing Circuit for input MOS
Ibias2 g5 0 10u
Ibias3 g6 0 10u
M5 s2 g5 sup sup pmos W=5.4u L=270u
M6 s1 g6 sup sup pmos W=5.4u L=270u
M3 g5 in1 s2 s2 pmos W=5.4u L=270u
M4 g6 in1 s1 s1 pmos W=5.4u L=270u

*Additional Current Biasing Circuits
Iref1 sup g910c 10u
R2 g910c gbn1 10k
Mbn1 dbn1 gbn1 0 0 nmos W=2.7u L=270n
Mbn2 gbn1 g910c dbn1 dbn1 nmos W=2.7u L=270n

Mbp1 dbp1 gbp1 sup sup pmos W=5.4u L=270n
Mbp2 gbp1 g78c dbp1 dbp1 pmos W=5.4u L=270n
R1 gbp1 g78c 10k
Iref2 g78c 0 10u

Iref3 sup g11c 20u
R3 g11c gbn3 10k
Mbn3 dbn3 gbn3 0 0 nmos W=2.7u L=270n
Mbn4 gbn3 g11c dbn3 dbn3 nmos W=2.7u L=270n

*Control block starts here.
.control
  run
  dc Vin_n 0 1.1 0.01
  plot v(out)
  plot deriv(v(out))
.endc
*Control block ends here.
.end
